US07638515B2
2-Fluoro-3-methoxybenzaldehyde
27 ml (240.62 mmol) of 2-fluoroanisole is dissolved in 700 ml of tetrahydrofuran. At −70° C., 200 ml of sec-BuLi (1.3 M solution in cyclohexane) is added in drops. It is stirred for one hour at −70° C., and then 152 ml of N,N-dimethylformamide, dissolved in 50 ml of tetrahydrofuran, is added in drops at this temperature. After another hour of stirring at −70° C., 380 ml of hydrochloric acid (w=10%) is added in drops. In this case, the batch slowly comes to room temperature. After stirring overnight at room temperature, methyl tert-butyl ether is added, and the organic phase is separated after vigorous stirring. The aqueous phase is extracted two more times with methyl tert-butyl ether. The combined organic extracts are washed with brine and dried. After the desiccant is filtered off, the solvent is spun off, and the residue is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). 25.66 g (69.2%) of the desired compound is isolated.

reactant | 2-fluoroanisole | 240.62 mmol, 27 ml | FC1=C(C=CC=C1)OC | C7H7FO
reactant | sec-BuLi | 1.3 M, 200 ml | [Li]C(C)CC
reactant | N,N-dimethylformamide | 152 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 380 ml | Cl | ClH
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
product | 2-Fluoro-3-methoxybenzaldehyde | 25.66 g, 69.2% | FC1=C(C=O)C=CC=C1OC | C8H7FO2
